US07078565B2
3-Bromo-methoxybenzylamine
A stirring solution of 3-bromo-4-methoxy-benzonitrile (1.00 g, 4.7 mmol) in THF (30 ml) was treated drop-wise with borane-THF (14.2 ml, 1M solution in THF, 14.2 mmol). The mixture was heated at reflux, under argon for 5 h. To the cooled reaction mixture was cautiously added MeOH (20 ml). The volatiles were removed in vacuo and the residue was treated with 2N HCl (20 ml). After heating at reflux for 0.45 h and cooling to room temperature the mixture was basified by addition of solid K2CO3. The basic solution was extracted with diethyl ether (2×). The organic phase was dried (MgSO4) and the solvent removed in vacuo to afford the title compound as a colourless oil (64%).

reactant | 3-bromo-4-methoxy-benzonitrile | 4.7 mmol, 1.00 g | BrC=1C=C(C#N)C=CC1OC | C8H6BrNO
reactant | borane THF | 14.2 mmol, 1M, 14.2 ml | B.C1CCOC1
reactant | MeOH | 20 ml | CO | CH4O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 3-Bromo-methoxybenzylamine | 64% | BrC=1C=C(CNOC)C=CC1 | C8H10BrNO
